US08067419B2
(S)-2-tert-Butoxycarbonylamino-3-phenyl-propionic acid (3 g, 11.3 mmol) was dissolved in DMF (100 mL), and PyBOP (5.9 g, 11.3 mmol) and Hünig's base (3.36 g, 25.99 mmol) were added, followed by 1-benzyl-piperazine (2 g, 11.3 mmol). Stirring at rt was continued for 8 h, followed by the addition of EtOAc (400 mL). The mixture was washed with 1 N aq. HCl (300 mL), sat. aq. sodium hydrogencarbonate solution (300 mL) and brine (300 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 4.375 g (91%) of [(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester. LC-MS: tR=0.80 min; [M+H]+=424.34.

reactant | (S)-2-tert-Butoxycarbonylamino-3-phenyl-propionic acid | 11.3 mmol, 3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C14H19NO4
reactant | PyBOP | 11.3 mmol, 5.9 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | Hünig's base | 25.99 mmol, 3.36 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-benzyl-piperazine | 11.3 mmol, 2 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | [(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 4.375 g, 91% | C(C)(C)(C)OC(N[C@H](C(=O)N1CCN(CC1)CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C25H33N3O3
